US07399775B2
5-Chloro-4-[(4-chlorophenylsulfonyl)-(2,5-difluorophenyl)methyl]-2-[N-methyl-N-[2-(methylamino)ethyl]amino]pyridine
In methylene chloride (2.0 ml) was dissolved tert-butyl 2-[N-[5-chloro-4-[(4-chlorophenylsulfonyl)-(2,5-difluorophenyl)methyl]pyridine-2-yl]-N-methylamino]ethyl-methylcarbamate (61 mg, 0.10 mmol), followed by the addition of anisole (40 μl) and trifluoroacetic acid (200 μl) at room temperature. The resulting mixture was stirred for 1 hour. The residue obtained by concentrating the reaction mixture under reduced pressure was purified by silica gel chromatography (3% methanol/chloroform→3% methanol, 3% tertbutylamine/chloroform), whereby the title compound (21 mg, 41%) was obtained as an oil.

reactant | tert-butyl 2-[N-[5-chloro-4-[(4-chlorophenylsulfonyl)-(2,5-difluorophenyl)methyl]pyridine-2-yl]-N-methylamino]ethyl-methylcarbamate | 0.10 mmol, 61 mg | ClC=1C(=CC(=NC1)N(C)CCN(C(OC(C)(C)C)=O)C)C(C1=C(C=CC(=C1)F)F)S(=O)(=O)C1=CC=C(C=C1)Cl | C27H29Cl2F2N3O4S
reactant | anisole | 40 μl | C1(=CC=CC=C1)OC | C7H8O
reactant | trifluoroacetic acid | 200 μl | FC(C(=O)O)(F)F | C2HF3O2
solvent | methylene chloride | 2.0 ml | C(Cl)Cl | CH2Cl2
product | 5-Chloro-4-[(4-chlorophenylsulfonyl)-(2,5-difluorophenyl)methyl]-2-[N-methyl-N-[2-(methylamino)ethyl]amino]pyridine | ClC=1C(=CC(=NC1)N(CCNC)C)C(C1=C(C=CC(=C1)F)F)S(=O)(=O)C1=CC=C(C=C1)Cl | C22H21Cl2F2N3O2S
